US08021574B2
Synthesis of 1,5-diphenylnaphthalene
Under an argon gas atmosphere, 49.0 g (106.1 mmol) of 5-{[(trifluoromethyl) sulfonyl]oxy}naphthyl trifluoromethanesulfonate, 28.5 g (233.3 mmol) of phenylboronic acid, 4.90 g (4.24 mmol) of tetrakis(triphenylphosphine)palladium(0), 200 ml of toluene, 100 ml of dimethoxyethane and 320 ml of 2M sodium carbonate solution were mixed, and stirred for 24 hours at 90 degrees C. After the reaction in the mixture was over, the mixture experienced filtration, through which aqueous phase thereof was eliminated. After organic phase thereof was cleansed by water and dried with magnesium sulfate, the solvent was distilled away under reduced pressure. Residue thereof was refined by silica-gel column chromatography, such that 18.0 g of 1.5-diphenylnaphthalene was obtained with an yield of 60%.

reactant | 5-{[(trifluoromethyl) sulfonyl]oxy}naphthyl trifluoromethanesulfonate | 106.1 mmol, 49.0 g | FC(S(=O)(=O)OC1=CC=CC2=C(C=CC=C12)OS(=O)(=O)C(F)(F)F)(F)F | C12H6F6O6S2
reactant | phenylboronic acid | 233.3 mmol, 28.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 320 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.24 mmol, 4.90 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | 1,5-diphenylnaphthalene | yield of 60% | C1(=CC=CC=C1)C1=CC=CC2=C(C=CC=C12)C1=CC=CC=C1 | C22H16
